US08283354B2
A solution of tert-butyl(R)-pyrrolidin-3-ylcarbamate (368 mg, 1.97 mmol) and triethylamine (0.46 mL, 3.28 mmol) in CH2Cl2 was rapidly added to a stirring solution of 2-(4-chloro-7-methylquinazolin-2-yl)-3-fluorophenol (475 mg, 1.65 mmol) in 15 mL CH2Cl2 at 0° C. under an N2 atmosphere. The reaction was stirred for 1 h before it was quenched with water, and the aqueous layer was extracted twice with CH2Cl2. The combined organic extracts were dried over MgSO4, filtered, and concentrated. Purification via silica gel chromatography using 0-10% EtOAc/CH2Cl2 yielded tert-butyl(R)-1-(2-(2-fluoro-6-hydroxyphenyl)-7-methylquinazolin-4-yl)pyrrolidin-3-ylcarbamate. LC/MS: m/z 439.5 (M+H)+ at 2.42 min (10%-99% CH3CN (0.035% TFA)/H2O (0.05% TFA)).

reactant | tert-butyl(R)-pyrrolidin-3-ylcarbamate | 1.97 mmol, 368 mg | N1C[C@@H](CC1)NC(OC(C)(C)C)=O | C9H18N2O2
reactant | triethylamine | 3.28 mmol, 0.46 mL | C(C)N(CC)CC | C6H15N
reactant | 2-(4-chloro-7-methylquinazolin-2-yl)-3-fluorophenol | 1.65 mmol, 475 mg | ClC1=NC(=NC2=CC(=CC=C12)C)C1=C(C=CC=C1F)O | C15H10ClFN2O
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 15 mL | C(Cl)Cl | CH2Cl2
product | tert-butyl(R)-1-(2-(2-fluoro-6-hydroxyphenyl)-7-methylquinazolin-4-yl)pyrrolidin-3-ylcarbamate | FC1=C(C(=CC=C1)O)C1=NC2=CC(=CC=C2C(=N1)N1C[C@@H](CC1)NC(OC(C)(C)C)=O)C | C24H27FN4O3
